US03984403
In 10 ml. of distilled water is dissolved 1.0 g. of N-[7-(α-sulfophenylacetamido)ceph-3-em-3-ylmethyl]-pyridinium-4-carboxylate sodium salt and the solution is passed over an ion exchange resin (Amberlite IR-120 of Rohm and Haas Co., U.S.A.) to obtain an aqueous solution of free acid N-[7-(α-sulfophenylacetamido)-ceph-3-em-3-ylmethyl]pyridinium-4-carboxylate.

reactant | N-[7-(α-sulfophenylacetamido)ceph-3-em-3-ylmethyl]-pyridinium-4-carboxylate sodium salt | [Na].S(=O)(=O)(O)C(C(=O)NC1[C@@H]2N(C=C(CS2)C[N+]2=CC=C(C=C2)C(=O)[O-])C1=O)C1=CC=CC=C1
solvent | water | O | H2O
product | N-[7-(α-sulfophenylacetamido)-ceph-3-em-3-ylmethyl]pyridinium-4-carboxylate | S(=O)(=O)(O)C(C(=O)NC1[C@@H]2N(C=C(CS2)C[N+]2=CC=C(C=C2)C(=O)[O-])C1=O)C1=CC=CC=C1 | C21H19N3O7S2
